US06362375B1
The three water extracts from Example 4 (excluding the NaHCO3 extracts) were charged into a 200 mL flask along with toluene (50 mL) and para-toluic acid (1.36 g). The mixture was heated and water was removed azeotropically as in Example 3;once approximately 40 mL of water had been removed a further 50 mL toluene was added. Then, when a total of 75 mL of water had been removed, a final 25 mL toluene was added. The reflux was terminated after 18 hours. After workup (as in Example 3) the reaction gave crude 4,4′-dimethylbenzophenone (0.58 g, 28% yield), which was again practically pure by 1H NMR (M.P. 86.5-87.5° C.). Removal of water from the three water extracts recovered 3.40 g cerium (III) trifluoromethanesulfonate as a damp, off-white solid).

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | para-toluic acid | 1.36 g | C1(=CC=C(C=C1)C(=O)O)C | C8H8O2
solvent | water | O | H2O
product | 4,4′-dimethylbenzophenone | 0.58 g, 28% yield | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
